US07902203B2
5-Bromo-4-nitro-1H-imidazole
4-Bromo-1H-imidazole (2.0 g, 13.6 mmol) was reacted with concentrated nitric acid (0.947 mL, 14.96 mmol) in concentrated sulfuric acid (20 mL) at 110° C. for 1 hour. The reaction was cooled to 25° C. and poured into 200 mL of ice water. The resulting white precipitate formed was collected by filtration to give the title compound (2.3 g, 87%). MS (ESI−) m/z 191 (M−H)−. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.99 (s, 1H).

reactant | 4-Bromo-1H-imidazole | 13.6 mmol, 2.0 g | BrC=1N=CNC1 | C3H3BrN2
reactant | nitric acid | 14.96 mmol, 0.947 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
product | 5-Bromo-4-nitro-1H-imidazole | 2.3 g, 87% | BrC1=C(N=CN1)[N+](=O)[O-] | C3H2BrN3O2
